US06638929B2
A mixture of 0.65 g (1.73 mmol ) of 7-azido-4-(5-methoxy-2-methylanilino)-6-nitro-3-quinolinecarbonitrile and 0.12 g of 10% palladium on carbon in a 1:1 mixture of ethanol/tetrahydrofuran is shaken on Parr apparatus with hydrogen gas at 40 psi for 2 hours. The mixture is filtered through a pad of diatomaceous earth, washed with methanol and tetrahydrofuran, then dried to provide a dark solid. The crude product is purified by silica gel chromatography, utilizing a gradient of methylene chloride/methanol (95:5 to 88:12) to yield 0.4 g of 6,7-diamino-4-(5-methoxy-2-methylanilino)-3-quinolinecarbonitrile as a dark solid, mp 245° C. (dec).

reactant | 7-azido-4-(5-methoxy-2-methylanilino)-6-nitro-3-quinolinecarbonitrile | 1.73 mmol, 0.65 g | N(=[N+]=[N-])C1=C(C=C2C(=C(C=NC2=C1)C#N)NC1=C(C=CC(=C1)OC)C)[N+](=O)[O-] | C18H13N7O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.12 g | [Pd] | Pd
solvent | ethanol tetrahydrofuran | C(C)O.O1CCCC1
product | 6,7-diamino-4-(5-methoxy-2-methylanilino)-3-quinolinecarbonitrile | 0.4 g | NC=1C=C2C(=C(C=NC2=CC1N)C#N)NC1=C(C=CC(=C1)OC)C | C18H17N5O
